US04891375
B. 4-(4-(4-(4-(3-Benzisothiazolyl)piperazinyl)butyl)phenyl)-1,2,3-thiadiazole
To a 65 ml round-bottom flask equipped with condenser and N2 inlet were added 1.43 g (5.66 mmol) 4-(4-(4-chlorobutyl)phenyl)-1,2,3-thiadiazole, 0.90 g (4.11 mmol) N-benzisothiazolylpiperazine, 1.43 ml (8.22 mmol)diisopropylethyl amine, 0.87 g (8.22 mmol) sodium carbonate, 2 mg sodium iodide, and 30 ml methylisobutyl ketone. The reaction was refluxed for 24 hours, cooled, filtered, and the filtrate evaporated. The residue was chromatographed on silica gel using ethyl acetate/methylene chloride as eluent to give an oil, which was taken up in ethyl acetate and precipitated by addition of ethyl acetate saturated with HCl. The solid was filtered, washed with ethyl acetate, and dried to afford 1.70 g (87.6%), m.p. 246°-247° C., white solid.

reactant | 4-(4-(4-chlorobutyl)phenyl)-1,2,3-thiadiazole | 5.66 mmol, 1.43 g | ClCCCCC1=CC=C(C=C1)C=1N=NSC1 | C12H13ClN2S
reactant | N-benzisothiazolylpiperazine | 4.11 mmol, 0.90 g | S1N=C(C2=C1C=CC=C2)N2CCNCC2 | C11H13N3S
reactant | diisopropylethyl amine | 8.22 mmol, 1.43 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium carbonate | 8.22 mmol, 0.87 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 2 mg | [I-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylisobutyl ketone | 30 ml | CC(=O)CC(C)C | C6H12O
product | 4-(4-(4-(4-(3-Benzisothiazolyl)piperazinyl)butyl)phenyl)-1,2,3-thiadiazole | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCCC2=CC=C(C=C2)C=2N=NSC2 | C23H25N5S2
